US04912098
Analogously to Example 8, 1.0 g of 11β,21-dihydroxy-6α-methyl-17-propionyloxy-4-pregnene-3,20-dione is reacted with 5 ml of butyric anhydride. After precipitation with ice water-sodium chloride, the mixture is extracted with methylene chloride; a steam distillation is conducted, and the mixture is worked up as usual. The crude product is purified by crystallization from acetone-hexane, thus obtaining 912 mg of 21-butyryloxy-11β-hydroxy-6α-methyl-17-propionyloxy-4-pregnene-3,20-dione, mp 211° C.

reactant | 11β,21-dihydroxy-6α-methyl-17-propionyloxy-4-pregnene-3,20-dione | 1.0 g | O[C@@H]1[C@@H]2[C@]3(CCC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(CC)=O)C)=O)C | C25H36O6
reactant | butyric anhydride | 5 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 21-butyryloxy-11β-hydroxy-6α-methyl-17-propionyloxy-4-pregnene-3,20-dione | 912 mg | C(CCC)(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)OC(CC)=O)=O | C29H42O7
